US07989461B2
7-(4-Methoxybenzyl)-3-methyl-4-(2-(methylamino)quinazolin-6-yl)-1,7-naphthyridin-8(7H)-one (0.900 g, 2.06 mmol) was taken in a clear microwave vial and treated with 14 ml of TFA and 1 ml of conc HCl. The vial was capped and heated in a Personal Chemistry SmithSynthesizer to 175° C. for 45 minutes. The volatiles were evaporated under reduced pressure and residual TFA/water was azeotroped with toluene. The residue was taken up in DCM/2M MeOH and loaded unto silica. The residue was purified by column chromatography on silica gel using a gradient of 3 to 12% MeOH in DCM to give 3-methyl-4-(2-(methylamino)quinazolin-6-yl)-1,7-naphthyridin-8(7H)-one as a yellow solid. MS (M+H)+ 318.

reactant | 7-(4-Methoxybenzyl)-3-methyl-4-(2-(methylamino)quinazolin-6-yl)-1,7-naphthyridin-8(7H)-one | 2.06 mmol, 0.900 g | COC1=CC=C(CN2C=CC=3C(=C(C=NC3C2=O)C)C=2C=C3C=NC(=NC3=CC2)NC)C=C1 | C26H23N5O2
reactant | TFA | 14 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 1 ml | Cl | ClH
product | 3-methyl-4-(2-(methylamino)quinazolin-6-yl)-1,7-naphthyridin-8(7H)-one | CC=1C=NC=2C(NC=CC2C1C=1C=C2C=NC(=NC2=CC1)NC)=O | C18H15N5O
